US05756743
1,4-Dihydro-7-dimethylaminocarbonyloxy-4-methylspiro[cyclopent[b]indole-3(2H),4'-piperidine] hemihydrate
To a solution of 1,4-dihydro-7-hydroxy-4-methylspiro[cyclopent[b]indole-3(2H),4'-piperidine] (0.61 g) and cesium carbonate (1.55 g) in acetonitrile (100 ml) was added dimethylcarbamyl chloride (0.25 g), under nitrogen, with stirring. The reaction mixture was stirred for 24 hrs, diluted with ethyl acetate, and the mixture was washed with saturated sodium chloride solution. The layers were separated, and the organic layer was dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated in vacuo. The residue was flash chromatographed (silica), eluting with 5% methanol/dichloromethane. The appropriate fractions were collected and concentrated. The residue was recrystallized from ethyl acetate/petroleum ether. The precipitate was flash chromatographed (silica), eluting with 25% ethyl acetate/dichloromethane to give 0.1 g (15%) of product, mp 110°-111° C.

reactant | 1,4-dihydro-7-hydroxy-4-methylspiro[cyclopent[b]indole-3(2H),4'-piperidine] | 0.61 g | OC1=CC=2C3=C(N(C2C=C1)C)C1(CCNCC1)CC3 | C16H20N2O
reactant | cesium carbonate | 1.55 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylcarbamyl chloride | 0.25 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,4-Dihydro-7-dimethylaminocarbonyloxy-4-methylspiro[cyclopent[b]indole-3(2H),4'-piperidine] hemihydrate | 0.1 g, 15% | O.CN(C(=O)OC1=CC=2C3=C(N(C2C=C1)C)C1(CCNCC1)CC3)C.CN(C)C(=O)OC3=CC=1C2=C(N(C1C=C3)C)C3(CCNCC3)CC2 | InChI=1S/2C19H25N3O2.H2O/c2*1-21(2)18(23)24-13-4-5-16-15(12-13)14-6-7-19(17(14)22(16)3)8-10-20-11-9-19;/h2*4-5,12,20H,6-11H2,1-3H3;1H2
